US07141684B2
Triethylamine (4 ml) and 4-toluenesulfonyl chloride (3.80 gm, 0.02 mol) were diluted with 1,2-dichloromethane (50 ml) and 2,6-diallylphenol (3.48 gm, 0.02 mol), dissolved in 1,2-dichloromethane (10 ml), was added drop wise to the phenol-triethylamine solution at room temperature and then refluxed for 1 hr. The reaction mixture was cooled, washed with water and dried over MgSO4, filtered and evaporated to give 4-toluenesulfonic acid: 2,6-diallylphenyl ester as an oil. Purification was carried out via filtering a hexane solution of the ester through silica gel. MS m/z 328 (M+ calcd for C19H20O3S=328). H NMR (300 MHz, CDCl3) d 2.50 (s, 3, CH3), 3.25–3.35 (d, 4, CH2), 4.95–5.10 (m, 4, CH2 vinyl), 5.75–5.90 (m, 2, CH, vinyl), 7.10–7.25 (m, 3, aromatic), 7.85–7.95 (m, 2, aromatic). Oxidation of product as described in Example 1 gave 4-toluenesulfonic acid 2,6-di(2,3-epoxypropyl)phenyl ester. MS m/z 360 (M+ calcd for C19H20O5S=360. H NMR (300 MHz, CDCl3) d 2.45–2.55 (m, 2, CH2 epoxypropyl), 2.50 (s, 3, CH3), 2.35–2.95 (m, 6, CH2 epoxypropyl), 3.21–3.35 (m, 2, CH epoxypropyl), 7.25–7.45 (m, 5, aromatic), 7.85–7.95 (d, 2, aromatic).

reactant | 4-toluenesulfonyl chloride | 0.02 mol, 3.80 gm | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
reactant | 2,6-diallylphenol | 0.02 mol, 3.48 gm | C(C=C)C1=C(C(=CC=C1)CC=C)O | C12H14O
reactant | phenol triethylamine | C1(=CC=CC=C1)O.C(C)N(CC)CC
solvent | Triethylamine | 4 ml | C(C)N(CC)CC | C6H15N
product | 4-toluenesulfonic acid | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
